US03968116
6-CHLORO-1-HYDROXY-2-(TRIFLUOROMETHYL)IMIDAZO(4,5-b)-PYRIDINE
5-Chloro-3-nitro-2-(trifluoroacetamido)pyridine (2.7 grams), anhydrous stannous chloride (3.8 grams), and 4.0 milliliters of concentrated hydrochloric acid were mixed in 20 milliliters of acetic acid. The mixture was cooled to temperatures of 0°-10°C. and maintained thereat for 15 minutes. Water (50 milliliters) was then added to the reaction mixture, and the desired 6-chloro-1-hydroxy-2-(trifluoromethyl)imidazo(4,5-b)-pyridine product precipitated. It was separated and dried. The yield was 1.3 grams, 55 percent. The product so obtained melted at 264°-66°C.

reactant | 5-Chloro-3-nitro-2-(trifluoroacetamido)pyridine | 2.7 grams | ClC=1C=C(C(=NC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C7H3ClF3N3O3
reactant | hydrochloric acid | 4.0 milliliters | Cl | ClH
reactant | Water | 50 milliliters | O | H2O
solvent | acetic acid | 20 milliliters | C(C)(=O)O | C2H4O2
product | 6-CHLORO-1-HYDROXY-2-(TRIFLUOROMETHYL)IMIDAZO(4,5-b)-PYRIDINE | ClC=1C=C2C(=NC1)N=C(N2O)C(F)(F)F | C7H3ClF3N3O
